US07393868B2
4-Oxo-4-{4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-yl}-butyric acid
Heat in a sealed tube with stirring propane-2-sulfonic acid{2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-thiophen-3-yl}-amide (0.5 mmol), 4-(4-Bromo-phenyl)-4-oxo-butyric acid (0.75 mmol), 2M Na2CO3 water solution (0.2 mL) and Pd(PPh3)4 (0.05 mmol) in 4.0 ml of an anhydrous DME to 100° C. for 24 h. Evaporate and purify the filtrate by flash chromotography (Silica gel-hexane/EtOAc). Add NaOH 2M (1 ml) to a suspension of the resultant ester (0.128 mmol) in ethanol (1 ml) and stir 24 h. Add 6N HCl until pH is approximately 1 and a white solid precipitates. Filter the solid to provide the title compound. MS (ES−): 456 (M−1).

reactant | propane-2-sulfonic acid{2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-thiophen-3-yl}-amide | 0.5 mmol | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C)C | C19H26BNO4S2
reactant | 4-(4-Bromo-phenyl)-4-oxo-butyric acid | 0.75 mmol | BrC1=CC=C(C=C1)C(CCC(=O)O)=O | C10H9BrO3
reactant | Na2CO3 water | 2M, 0.2 mL | C(=O)([O-])[O-].[Na+].[Na+].O
reactant | NaOH | 2M, 1 ml | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | DME | 4.0 ml | COCCOC | C4H10O2
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.05 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Oxo-4-{4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-yl}-butyric acid | O=C(CCC(=O)O)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C | C23H23NO5S2
